US05444056
a) 2-(4-hydroxy benzenesulfonyl) 1-isopropyl 3,4-dimethoxy benzene
A mixture of 2 g (0.011 mole) of 1-isopropyl 3,4-dimethoxy benzene, 3.4 g (0.011 mole) of sodium 4-benzyloxy benzenesulfonate, 45 ml of anhydrous methanesulfonic acid and 4.5 g of phosphoric anhydride is stirred at 50° C. for 5 hours. It is poured into an ice/water mixture, the product is filtered off and washed on the filter with water. The still moist solid is taken up in 20 ml of ethanol and 5 ml of a 30% sodium hydroxide solution. It is heated at 60° C. for about 2 h until dissolution is complete, the solution is diluted with water, filtered and acidified with acetic acid. The product is filtered off and washed on the filter with water. It is then purified by chromatography on a column of silica using a dichloroethane/ethyl acetate mixture 95/5.

reactant | 1-isopropyl 3,4-dimethoxy benzene | 0.011 mole, 2 g | C(C)(C)C1=CC(=C(C=C1)OC)OC | C11H16O2
reactant | methanesulfonic acid | 45 ml | CS(=O)(=O)O | CH4O3S
reactant | phosphoric anhydride | 4.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2-(4-hydroxy benzenesulfonyl) 1-isopropyl 3,4-dimethoxy benzene | OC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC(=C1OC)OC)C(C)C | C17H20O5S
